US07825109B2
tert-butyl N-[3-(4-hydroxyphenyl)propyl]-β-alaninate
To a methanol solution (25 mL) of 4-(3-aminopropyl)phenol (1.83 g), tert-butyl acrylate (1.7 mL) was added dropwise thereto at room temperature, followed by stirring at room temperature overnight. The reaction mixture was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate→ethyl acetate:methanol=3:1) to give the title compound (1.55 g) having the following physical properties. TLC: Rf 0.24 (ethyl acetate:methanol 5:1);

reactant | 4-(3-aminopropyl)phenol | 1.83 g | NCCCC1=CC=C(C=C1)O | C9H13NO
reactant | tert-butyl acrylate | 1.7 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
solvent | methanol | 25 mL | CO | CH4O
product | tert-butyl N-[3-(4-hydroxyphenyl)propyl]-β-alaninate | 1.55 g | OC1=CC=C(C=C1)CCCNCCC(=O)OC(C)(C)C | C16H25NO3
